US07655669B2
4-(2-Methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzonitrile
The title compound is prepared using an analogous method as described in Example 1.1, utilising 4-chloro-3-(trifluoromethyl)-benzonitrile (Lancaster Synthesis GmbH) and 2-methyl-imidazole (Fluka, Buchs, Switzerland), with a reaction temperature of 145° C. for 38 hours.

reactant | 4-chloro-3-(trifluoromethyl)-benzonitrile | ClC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3ClF3N
reactant | 2-methyl-imidazole | CC=1NC=CN1 | C4H6N2
product | 4-(2-Methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzonitrile | CC=1N(C=CN1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C12H8F3N3
